US06831193B2
1,3-dioxo-6-sulfo-1,3-dihydro-2-benzofuran-5-carboxylic acid
5-Sulfo-1,2,4-benzenetricarboxylic acid (9.63 g, 33.2 mmol), prepared according to J. Am. Chem. Soc. (1949) 71, 11, was treated with acetic anhydride (150 mL) and refluxed for 5 hours. After cooling to room temperature, the acetic anhydride was removed under reduced pressure. The residue was washed with diethyl ether (3×30 mL) and then dried under reduced pressure at room temperature to provide the title compound as a tan solid.

reactant | 5-Sulfo-1,2,4-benzenetricarboxylic acid | 33.2 mmol, 9.63 g | S(=O)(=O)(O)C1=C(C=C(C(=C1)C(=O)O)C(=O)O)C(=O)O | C9H6O9S
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3-dioxo-6-sulfo-1,3-dihydro-2-benzofuran-5-carboxylic acid | O=C1OC(C2=C1C=C(C(=C2)C(=O)O)S(=O)(=O)O)=O | C9H4O8S
